US08859505B2
Step a) 2-Ethoxycarbonylamino-3-(1-fluorocyclopentyl)-propionic acid (C6-a)
2-tert-Butoxycarbonylamino-3-(1-fluorocyclopentyl)-propionic acid (200 mg, 0.73 mmol) was kept in 4M HCl in dioxane (3 mL) for 20 min The mixture was then freeze-dried and left under a vacuum for 2 h. The solid residue was dissolved in dioxane-H2O 1:1 (12 mL). NaHCO3 (2.18 mmol, 3 eq.) and then ethyl chloroformate (0.87 mmol 1.2 eq.) dissolved in of dioxane (1 mL) were added. The reaction mixture was stirred for 20 min until completed according LC-MS. The mixture was acidified by citric acid (10% aq.) to pH 5. The product was extracted with DCM (20 mL) and EtOAc (20 mL). The organic layers were combined, dried (MgSO4) and concentrated. The afforded crude was used without further purification in the next step.

reactant | 2-tert-Butoxycarbonylamino-3-(1-fluorocyclopentyl)-propionic acid | 0.73 mmol, 200 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1(CCCC1)F | C13H22FNO4
reactant | NaHCO3 | 2.18 mmol, 3 eq. | C(=O)(O)[O-].[Na+]
reactant | ethyl chloroformate | 0.87 mmol, 1.2 eq. | ClC(=O)OCC | C3H5ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-Ethoxycarbonylamino-3-(1-fluorocyclopentyl)-propionic acid | C(C)OC(=O)NC(C(=O)O)CC1(CCCC1)F | C11H18FNO4
